US07851473B2
(5) 4-[4-(3-Fluorophenyl)-1,3-thiazol-2-yl]-N-pyridin-3-ylpiperidine-1-carboxamide dihydrochloride
To a solution of 4-[4-(3-fluorophenyl)-1,3-thiazol-2-yl]-N-pyridin-3-ylpiperidine-1-carboxamide (280 mg, 0.732 mmol) in tetrahydrofuran (20 ml) was added a 4N solution (5 ml) of hydrogen chloride in ethyl acetate, and the mixture was stirred at room temperature for 1 hour. The reaction solution was distilled off under reduced pressure, and the residue was recrystallized from a mixed solvent of methanol and diethyl ether to give the desired product (179 mg, 49.8%) as a solid.

reactant | 4-[4-(3-fluorophenyl)-1,3-thiazol-2-yl]-N-pyridin-3-ylpiperidine-1-carboxamide | 0.732 mmol, 280 mg | FC=1C=C(C=CC1)C=1N=C(SC1)C1CCN(CC1)C(=O)NC=1C=NC=CC1 | C20H19FN4OS
reactant | hydrogen chloride | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[4-(3-Fluorophenyl)-1,3-thiazol-2-yl]-N-pyridin-3-ylpiperidine-1-carboxamide dihydrochloride | 179 mg, 49.8% | Cl.Cl.FC=1C=C(C=CC1)C=1N=C(SC1)C1CCN(CC1)C(=O)NC=1C=NC=CC1 | InChI=1S/C20H19FN4OS.2ClH/c21-16-4-1-3-15(11-16)18-13-27-19(24-18)14-6-9-25(10-7-14)20(26)23-17-5-2-8-22-12-17;;/h1-5,8,11-14H,6-7,9-10H2,(H,23,26);2*1H
